US06686407B2
Synthesis of 1-Hexyl-2,3,4,5,6-pentaphenylbenzene
A 100 mL round bottom flask was charged with 2.5 g (0.013 mol) of 1-phenyl-1-octyne 6.0 g (0.16 mol) of tetraphenylcyclopentadienone, and 2.0 g of benzophenone. The system was degassed and then filled with nitrogen. The mixture was heated for 2.5 h at 250° C. The purple reaction mixture was cooled to room temperature, and then dissolved in toluene. The product was precipitated in excess methanol, filtered, and dried to provide 5.47 g (75%) of a white solid. 1H NMR (CDCl3) δ 0.65 (t, 3H), 0.8 (m, 4 H), 0.97 (q, 2 H), 1.23 (q, 2 H), 2.31 (m, 2 H). MS (FD) m/e 512 (M+).

reactant | 1-phenyl-1-octyne | 0.013 mol, 2.5 g | C1(=CC=CC=C1)C#CCCCCCC | C14H18
reactant | tetraphenylcyclopentadienone | C1(=CC=CC=C1)C1=C(C(=C(C1=O)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H20O
reactant | benzophenone | 2.0 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
product | 1-Hexyl-2,3,4,5,6-pentaphenylbenzene | 5.47 g, 75% | C(CCCCC)C1=C(C(=C(C(=C1C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C42H38
